US04886814
N-[2-(4-Methylaminocarbonylmethoxyphenyl)-1-methylethyl]-2-(2-methyl-thiazol-4-yl)morpholin
Prepared by analogy to Example 13 by reaction of 2-(2-methyl-thiazol-4-yl)morpholine with 1-(4-methylaminocarbonylmethoxyphenyl)propan-2-one followed by purification on a silica gel column using ethyl acetate as eluant.

reactant | 2-(2-methyl-thiazol-4-yl)morpholine | CC=1SC=C(N1)C1CNCCO1 | C8H12N2OS
reactant | 1-(4-methylaminocarbonylmethoxyphenyl)propan-2-one | CNC(=O)COC1=CC=C(C=C1)CC(C)=O | C12H15NO3
product | N-[2-(4-Methylaminocarbonylmethoxyphenyl)-1-methylethyl]-2-(2-methyl-thiazol-4-yl)morpholin | CNC(=O)COC1=CC=C(C=C1)CC(C)N1CC(OCC1)C=1N=C(SC1)C | C20H27N3O3S
